US06479487B1
2-Chloro-6-[(3,4-dimethoxybenzyl)amino]-9-(2-propyl)purine is prepared from 2,6-dichloro-9-(2-propyl)purine, 3,4-dimethoxybenzylamine, and triethylamine essentially as described above in Example 1, Scheme A, step b.

reactant | 2,6-dichloro-9-(2-propyl)purine | ClC1=NC(=C2N=CN(C2=N1)C(C)C)Cl | C8H8Cl2N4
reactant | 3,4-dimethoxybenzylamine | COC=1C=C(CN)C=CC1OC | C9H13NO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Chloro-6-[(3,4-dimethoxybenzyl)amino]-9-(2-propyl)purine | ClC1=NC(=C2N=CN(C2=N1)C(C)C)NCC1=CC(=C(C=C1)OC)OC | C17H20ClN5O2
